US05302728
750 g of glycerol, 21 g of bisphenol A, 5.4 g of sodium hydroxide and 3.6 g of sodium acetate are added to a 2-liter round bottom distillation flask provided with a 15-inch high, 1-inch diameter Vigreaux distillation column. The pressure is set at 180 mm Hg using a N2 source and the mixture is heated to ca. 220° C., at which point the reaction sets in, evolving water vapor. In order to ensure that no large amounts of unreacted glycerol leave the unit with the overhead water product, the column is provided with a magnetic control for refluxing part of the overhead product. Since the Vigreaux column is not insulated, air cooling increases the condensation process and results in a low loss of glycerol and diglycerol components. Thus, although the magnetically controlled variable reflux is set at 1:1 back reflux to product ratio, the effective reflux ratio in this instance is closer to 3:1 back-to-product.

reactant | bisphenol A | 21 g | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | sodium hydroxide | 5.4 g | [OH-].[Na+]
reactant | sodium acetate | 3.6 g | C(C)(=O)[O-].[Na+]
reactant | glycerol | OCC(O)CO | C3H8O3
reactant | glycerol | 750 g | OCC(O)CO | C3H8O3
product | diglycerol | C(C(COCC(CO)O)O)O | C6H14O5
